US09447006B2
A 3-N 250 mL flask was charged with trimethyl-(6,10,14-trimethyl-pentadeca-5,9,13-trien-1-ynyl)-silane (Ex-1B-7) (19.38 g, 64.1 mmol) and NaOEt (42 mL of a 21% w/w solution, 112 mmol). The reaction mixture was stirred at 60° C. for 4 h. After cooling to RT, the reaction mixture was diluted with MTBE (100 mL) and water (100 mL) and then filtered to remove solid present at the phase interface. The aqueous layer was extracted with MTBE (3×100 mL). The combined MTBE layers were washed with brine (100 mL), dried over MgSO4, filtered, and concentrated by rotary evaporation to yield 12.43 g of 6,10,14-trimethyl-pentadeca-5,9,13-trien-1-yne (Ex-1B-8) as a dark orange oil (96%). 1H NMR (400 MHz, CDCl3) δ (ppm): 5.23-5.17 (m, 1H), 5.17-5.07 (m, 2H), 2.29-1.95 (m, 13H), 1.70 (s, 3H), 1.65 (s, 3H), 1.62 (s, 6H).

reactant | trimethyl-(6,10,14-trimethyl-pentadeca-5,9,13-trien-1-ynyl)-silane | 64.1 mmol, 19.38 g | C[Si](C#CCCC=C(CCC=C(CCC=C(C)C)C)C)(C)C | C21H36Si
reactant | NaOEt | CC[O-].[Na+]
solvent | MTBE | 100 mL | CC(C)(C)OC | C5H12O
solvent | water | 100 mL | O | H2O
product | 6,10,14-trimethyl-pentadeca-5,9,13-trien-1-yne | 12.43 g, 96% | CC(=CCCC#C)CCC=C(CCC=C(C)C)C | C18H28
